US05945431
compound #9 N-(2-ethoxybenzyl)-2-[1,6]naphthyridinecarboxamide
To a stirring mixture of 2-[1,6]naphthyridinecarboxylic acid (50 mg, 0.287 mmol) in anhydrous DMF (6.3 mL) at room temperature was added sequentially 1 hydroxybenzotriazole hydrate (42.7 mg, 0.316 mmol), 2-ethoxybenzyl amine (64.9 μL, 0.431 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarboiimide hydrochloride (61.8 mg, 0.316 mmol). The resulting mixture was allowed to stir at room temperature overnight and it was found to be clear. The solvent was removed under vacuum and the resulting residue was redissolved in CH2Cl2 (50 mL). The organic layer was washed with aq. NaHCO3, dried over anhydrous Na2SO4, and concentrated to give the crude mixture. Flash column chromatography of the crude (50% hexane/ethyl acetate to 100% ethyl acetate) afforded the desired product as a white solid (85.0 mg, 96%): m.p. 79-80° C.

reactant | 2-[1,6]naphthyridinecarboxylic acid | 0.287 mmol, 50 mg | N1=C(C=CC2=CN=CC=C12)C(=O)O | C9H6N2O2
reactant | hydroxybenzotriazole hydrate | 0.316 mmol, 42.7 mg | O.OC1=CC=CC=2NN=NC21
reactant | 2-ethoxybenzyl amine | 0.431 mmol, 64.9 μL | C(C)OC1=C(CN)C=CC=C1 | C9H13NO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | 6.3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-ethoxybenzyl)-2-[1,6]naphthyridinecarboxamide | 85.0 mg, 96% | C(C)OC1=C(CNC(=O)C2=NC3=CC=NC=C3C=C2)C=CC=C1 | C18H17N3O2
